US08133908B2
Description D38: 6-methyl-3-(1H-pyrazol-1-yl)-2-pyridinecarboxylic acid (D38)
A solution of methyl 6-methyl-3-(1H-pyrazol-1-yl)-2-pyridinecarboxylate D37 (106 mg) and LiOH (17.53 mg, 0.732 mmol) in THF/water (2:1, 6 ml) was stirred overnight. The mixture was evaporated under reduced pressure; the residue was taken up in water (2 ml) and the pH was adjusted to pH=2 with 1 M HCl solution. The mixture was loaded onto a pre-conditioned C18 column (5 g, eluted with water and then MeOH). The methanol fractions were evaporated under reduced pressure to give the title compound D38 (98 mg) as a white solid.

reactant | methyl 6-methyl-3-(1H-pyrazol-1-yl)-2-pyridinecarboxylate | CC1=CC=C(C(=N1)C(=O)OC)N1N=CC=C1 | C11H11N3O2
reactant | LiOH | 0.732 mmol, 17.53 mg | [Li+].[OH-]
solvent | THF water | 6 ml | C1CCOC1.O
product | 6-methyl-3-(1H-pyrazol-1-yl)-2-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)O)N1N=CC=C1 | C10H9N3O2
